US07939526B2
Trimethyl orthovalerate (1.3 g, 8.1 mmol) was added to a solution of N4-{2-[2-(methylsulfonyl)ethoxy]ethyl}quinoline-3,4-diamine (˜2.3 g, ˜7.4 mmol) in acetonitrile (37 mL). Pyridine hydrochloride (˜100 mg) was added and the reaction mixture was heated to reflux with the volatiles being collected in a Dean Stark trap. After 15 minutes analysis by TLC indicated that the starting material was consumed. The reaction mixture was cooled and then concentrated under reduced pressure to provide ˜2.8 g of 2-butyl-1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-1H-imidazo[4,5-c]quinoline as a greenish-yellow powder.

reactant | Trimethyl orthovalerate | 8.1 mmol, 1.3 g | C(CCCC)(OC)(OC)OC | C8H18O3
reactant | N4-{2-[2-(methylsulfonyl)ethoxy]ethyl}quinoline-3,4-diamine | ˜7.4 mmol, ˜2.3 g | CS(=O)(=O)CCOCCNC1=C(C=NC2=CC=CC=C12)N | C14H19N3O3S
reactant | Pyridine hydrochloride | ˜100 mg | Cl.N1=CC=CC=C1
solvent | acetonitrile | 37 mL | C(C)#N | C2H3N
product | 2-butyl-1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-1H-imidazo[4,5-c]quinoline | ˜2.8 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCS(=O)(=O)C | C19H25N3O3S
